US07495103B2
To a mixture of {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino }-acetic acid (13.8 g, 53 mmol) and TFFH (21.0 g, 79.5 mmol) in anhydrous THF (125 mL) was added DIEA (27.7 mL, 159 mmol) at room temperature under nitrogen. The solution was stirred at room temperature for 20 min. A solution of 6-nitroindole (8.6 g, 53 mmol) in THF (75 mL) was added and the reaction mixture was heated at 60° C. for 18 h. The solvent was evaporated and the crude mixture was re-partitioned between EtOAc and water. The organic layer was separated, washed with water (×3), dried over Na2SO4 and concentrated. Diethyl ether followed by EtOAc was added. The resulting solid was collected via filtration, washed with diethyl ether and air dried to yield methyl-({methyl-[2-(6-nitro-indol-1-yl)-2-oxo-ethyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester (6.42 g, 30%). 1H NMR (400 MHz, DMSO-d6) δ 1.37 (m, 9H), 2.78 (m, 3H), 2.95 (d, J=1.5 Hz, 1H), 3.12 (d, J=2.1 Hz, 2H), 4.01 (d, J=13.8 Hz, 0.6H), 4.18 (d, J=12.0 Hz, 1.4H), 4.92 (d, J=3.4 Hz, 1.4H), 5.08 (d, J=11.4 Hz, 0.6H), 7.03 (m, 1H), 7.90 (m, 1H), 8.21 (m, 1H), 8.35 (d, J=3.8 Hz, 1H), 9.18 (m, 1H); HPLC ret. time 3.12 min, 10-99% CH3CN, 5 min run; ESI-MS 405.5 m/z (MH+).

reactant | {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino }-acetic acid | 53 mmol, 13.8 g | C(C)(C)(C)OC(=O)N(CC(=O)N(C)CC(=O)O)C | C11H20N2O5
reactant | TFFH | 79.5 mmol, 21.0 g | CN(C)C(=[N+](C)C)F.F[P-](F)(F)(F)(F)F
reactant | DIEA | 159 mmol, 27.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-nitroindole | 53 mmol, 8.6 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | methyl-({methyl-[2-(6-nitro-indol-1-yl)-2-oxo-ethyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester | 6.42 g, 30% | C(C)(C)(C)OC(N(CC(N(CC(=O)N1C=CC2=CC=C(C=C12)[N+](=O)[O-])C)=O)C)=O | C19H24N4O6
